US05428043
2,3-dihydro-2-methyl-7-methoxy-2-[[1-(phenylmethyl)-4-piperidinyl]methyl]-1H-pyrrolo[1,2-a]indol-1-one
A solution of 2,3-dihydro-7-methoxy-2-[[1-(phenylmethyl)-4-piperidinyl]methyl]-1H-pyrrolo[1,2-a]indol-1-one (137 mg, 0.353 mmol) in dry THF (5 ml) was treated with NaH (35 mg, 0.875 mmol) at r.t. After 5 minutes, an excess of methyl iodide (0.1 ml) was added and the mixture was stirred at r.t. for 3 hours. The mixture was quenched with water and extracted with chloroform. The organic layer was dried and concentrated to give 140 mg of material which was purified through silica gel to give the title compound. 1HNMR (CDCl3)δ 1.36 (s, 3H), 1.6-2.2 (m, 7H), 2.4-2.7 (m, 2H), 3.2-3.4 (m, 2H), 3.8 (s, 3H), 4.05 (s, 2H), 4.18 (ABq, 2H), 6.9 (s, 1H), 7.0-7.1 (m, 2H), 7.2-7.3 (m, 1H), 7.3-7.4 (m, 3H), 7.4-7.6 (m, 2H) ppm.

reactant | 2,3-dihydro-7-methoxy-2-[[1-(phenylmethyl)-4-piperidinyl]methyl]-1H-pyrrolo[1,2-a]indol-1-one | 0.353 mmol, 137 mg | COC1=CC=2C=C3N(C2C=C1)CC(C3=O)CC3CCN(CC3)CC3=CC=CC=C3 | C25H28N2O2
reactant | NaH | 0.875 mmol, 35 mg | [H-].[Na+]
reactant | methyl iodide | 0.1 ml | CI | CH3I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2,3-dihydro-2-methyl-7-methoxy-2-[[1-(phenylmethyl)-4-piperidinyl]methyl]-1H-pyrrolo[1,2-a]indol-1-one | 140 mg | CC1(C(C=2N(C=3C=CC(=CC3C2)OC)C1)=O)CC1CCN(CC1)CC1=CC=CC=C1 | C26H30N2O2
